US05607934
7.60 g of potassium carbonate and 6.3 ml of benzyl chloride were added to 100 ml of a solution of 9.57 g of 3-ethoxycarbonyl-1-hydroxy-6-isobutylpiperazine-2,5-dione in anhydrous N,N-dimethylformamide, on ice-cooling. The mixture was stirred at room temperature for 16 hours. The reaction mixture was diluted with 450 ml of ethyl acetate, then washed three times with an aqueous solution saturated with sodium chloride, and dried with anhydrous magnesium sulfate. The resulting solution was subjected to distillation to remove the solvent. The residue was allowed to stand. The resulting crystals were collected by filtration and washed with methanol to obtain 4.51 g of (3RS,6SR)-3-benzyl-1-benzyloxy-3-ethoxycarbonyl-6-isobutylpiperazine-2,5-dione as colorless columnar crystals.

reactant | potassium carbonate | 7.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 6.3 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 3-ethoxycarbonyl-1-hydroxy-6-isobutylpiperazine-2,5-dione | 9.57 g | C(C)OC(=O)C1C(N(C(C(N1)=O)CC(C)C)O)=O | C11H18N2O5
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 450 ml | C(C)(=O)OCC | C4H8O2
product | (3RS,6SR)-3-benzyl-1-benzyloxy-3-ethoxycarbonyl-6-isobutylpiperazine-2,5-dione | 4.51 g | C(C1=CC=CC=C1)C1(C(N(C(C(N1)=O)CC(C)C)OCC1=CC=CC=C1)=O)C(=O)OCC | C25H30N2O5
